US04728653
5M Hydrochloric acid (20 cm3) was added to trans-ethyl 3-(2-amino-3-methyl-5-[tetrazol-2-yl]phenyl)prop-2-enoate (0.45 g) and the mixture was heated on a steam bath for 1 hour. The mixture was then cooled, brought to pH 7 with aqueous sodium carbonate solution, and extracted with dichloromethane:methanol, 20:1 (3×50 cm3). The combined organic extracts were dried (MgSO4), filtered and evaporated to dryness. The residue was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl/acetate:methanol, 10:1. Combination and evaporation of the appropriate fractions afforded 8-methyl-6-(tetrazol-2-yl)-2-(1H)-quinolone, 0.25H2O, m.p. 264°-266°, (0.08 g).

reactant | trans-ethyl 3-(2-amino-3-methyl-5-[tetrazol-2-yl]phenyl)prop-2-enoate | 0.45 g | NC1=C(C=C(C=C1C)N1N=CN=N1)/C=C/C(=O)OCC | C13H15N5O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | Hydrochloric acid | 5M, 20 cm3 | Cl | ClH
product | 8-methyl-6-(tetrazol-2-yl)-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)N1N=CN=N1 | C11H9N5O
